Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
scopolamine / cefepime
 
Attending: ___.
 
Chief Complaint:
dysphagia, difficulty handling secretions
 
Major Surgical or Invasive Procedure:
PEG tube placement

 
History of Present Illness:
Patient is a ___ female with past medical history 
significant for cerebellar hemorrhage (___) due to AVM s/p s/p 
suboccipital craniotomy (___) with recurrent hemorrhage 
(___) s/p repeat craniotomy and
excision of AVM with duraplasty and pericranial graft and 
titanium mesh placement (___) complicated by craniotomy site 
infection (___), residual dysarthria/dysphagia, RA on 
methotrexate, who is referred from ___ with concern for 
ongoing aspiration, UTI.

Briefly, patient was admitted to ___ in ___ for a cerebellar 
hemorrhage with intraventricular extension ___ a cerebellar AVM. 
She underwent suboccipital craniotomy and evacuation of 
hematoma. THis was then complicated by a recurrent hemorrhage 
after falling at home. She underwent a planned AVM excision in 
___. FOllowing these admission, she spent extended time at a 
rehab facility, with PEG tube. Since her ICH, she has had 
residual deficits including ataxia, diplopia as well as 
dysphagia. 

Regaeding her severe dysphagia, she was previously being fed via 
G-tube. She has had multiple aspiration pneumonias in the past 
year. She is now on a modified diet with thickened liquids and 
soft solids. She has had cough after meals. She has been 
evaluated by speech and language therapist and initially noted 
significant improvement after e-stim stimulation. SHe has also 
had drooling with difficulty clearing her secretions. TO this 
end, her neurologist switched her from gabapentin to low-dose 
nortriptyline 10 mg at bedtime with dual purpose of treating her 
pain and helping with her drooling. SHe also saw ENT in ___ 
and was diagnosed with sialorrhea/ptyalism, oropharyngeal 
dysphagia with aspiration based on flexible videostroboscopy and 
review of prior modified barium swallow. ENT felt that her 
aspiration pnas were due to the
saliva rather than her diet and recommended Botox injection to 
the saliva glands, which she underwent on ___

Since this time she states she has worsening dysphagia, as well 
as coughing and difficulty managing the secretions. The patient 
has also been reporting dysuria and urinary latency, however she 
is unclear how long this has been going on. She had previous 
been treated with a course of Bactrim for this. Patient denies 
any fevers, chills, chest pain, shortness of breath, abdominal 
pain. Reports intermittent diarrhea. She presented to ___, 
where labs were remarkable for ___ positive, positive nitrite, 
and chest x-ray showed right middle lobe opacity which had 
actually decreased from prior studies. The patient was treated 
with levofloxacin 750mg IV. Patient was transferred for 
evaluation by ENT for concern for aspiration.  

 In the ED, initial VS were: 96.8 106 122/70 20 100% RA 
  
ENT consulted, felt that it was difficult to tell whether 
symptoms are new since botox injection or she is at her 
baseline. Recommended continued work-up of dysphagia, NPO, SLP 
evaluation 

REVIEW OF SYSTEMS: 
 A ten point ROS was conducted and was negative except as above 
in the HPI.

 
Past Medical History:
Cerebellar hemorrhage (___) due to AVM s/p neurosurgical 
evacuation complicated by wound infection
Osteoporosis
Nephrolithiasis

Surgical Hx
Hip replacement
Cataract surgery
Retinal detachment
Hysterectomy
Appendectomy

 
Social History:
___
Family History:
No history of brain hemorrhage

 
Physical Exam:
Admission Exam:

 Gen: NAD, extremely cachectic, lying in bed
 Eyes: EOMI, sclerae anicteric  
 ENT: dry MM, OP clear
 Cardiovasc: RRR, no MRG, full pulses, no edema  
 Resp: normal effort, no accessory muscle use, lungs CTA ___.
 GI: soft, NT, ND, BS+
 MSK: chronic contractures of bilateral upper extremities
 Skin: No visible rash. No jaundice.
 Neuro: AAOx3. Baseline dysarthria noted
 Psych: Tearful at times

Discharge exam:
Vitals: AF 100s-130s/60s-80s ___ 95-97% RA 
Gen: Lying in bed in no apparent distress, awake, interactive
HEENT: AT, NC, L eye ptosis, MMM, hearing grossly intact
GI: (+) BS, PEG site clean/dry, minimal erythema around entry
site mild tenderness, soft, ND, no HSM 
Extr/vasc: wwp, No edema
Skin: No rashes or ulcerations evident
MSK: bilateral hand contractures
Neuro: A+O, speech dysarthric, moving all extremities
Psych: somber mood, appropriate affect

 
Pertinent Results:
=============================
___ ___

UA
 ___ 500, positive nitrite, ___ WBC

CBC, BMP wnl

============================

Blood culture ___ neg

Video swallow ___
There is aspiration of nectar thick liquids and honey thick 
liquids secondary to significant pharyngeal weakness. 

Head CT ___
Skin breakdown overlying the suboccipital craniectomy mesh with 
subjacent air. No evidence of intradural extension. 

CT Chest ___
IMPRESSION:  
No pulmonary nodule corresponding to the abnormality seen on the 
chest 
radiograph. 
Potential bibasal aspirations versus infection. 
Mild cylindric bronchiectasis.  3 mm right para fissure all 
nodule that should  be reassessed in ___ year. 
Liver hemangiomas. 
Suggestion of renal pelvic fullness that should be further 
assessed with 
ultrasound. 
Severe compression fracture of T12, unchanged since ___.  016. 

=============================
Labs prior to dicharge

___ 08:10AM BLOOD WBC-6.3# RBC-3.96 Hgb-10.7* Hct-33.7* 
MCV-85 MCH-27.0 MCHC-31.8* RDW-14.6 RDWSD-44.5 Plt ___
___ 08:10AM BLOOD ___
___ 07:50AM BLOOD Glucose-112* UreaN-10 Creat-0.4 Na-136 
K-4.3 Cl-101 HCO3-23 AnGap-16
___ 07:50AM BLOOD Phos-3.9 Mg-2.0

=============================
 
Brief Hospital Course:
Ms. ___ is a ___ female with history of cerebellar 
hemorrhage (___) due to AVM s/p s/p multiple craniotomies 
(___) and recurrent hemorrhage complicated by 
residual dysarthria/dysphagia (required PEG tube for a period of 
time in ___, later removed), RA on methotrexate. She has had 
progressive issues with recurrent aspiration pneumonias and 
suspected aspiration of her secretions for which she underwent a 
botox injection to her saliva glands by ENT on ___ after which 
she noted an acute decline in her speech and ability to swallow. 
Referred from ___ with concern for ongoing aspiration now 
s/p PEG tube placement.

#HX of AVM s/p s/p suboccipital craniotomy (___) with 
recurrent hemorrhage (___)
#Baseline dysphagia/dysarthria
#Moderate Protein Calorie Malnutrition
She has had a modified barium swallow most recently in ___ 
at ___ with trace aspiration. Ongoing aspiration was felt 
due to copious secretions and sialorrhea by ENT so she underwent 
botox injection of salivary glands ___. Notably, back in ___, 
she had spent an extended time at a rehab facility with PEG tube 
feeds which were later discontinued. The patient has expressed 
resistance to the idea of having a PEG tube placed again. Due to 
2 reported falls within the past 2 weeks prior to admission 
combined with patient reports of worsening ability to ambulate 
during that time, head Ct was ordered to rule out bleed, which 
was unchanged since prior in ___. It is possible she may have 
had a small ischemic stroke, not detected by head CT however 
there would frankly be little to be done within her goals of 
___ and her weakness and swallowing issues began worsening over 
a week ago.
Discussed with SLP and pt noted to be frankly aspirating. Made 
her strict NPO (was previously on thickened liquids and soft 
solids at baseline). 

After failing a bedside S/S, a feeding tube was placed ___ 
after family meeting resulted in agreement to use artificial 
feeding temporarily pending VFSS. VFSS revealed profound 
dysphagia and severe aspiration and asphyxiation risk. If this 
were strictly effect from botox, we could see improvement as 
early as 2 weeks from now, or it could take up to a few months. 
PEG tube was placed ___ to allow time for improvement. Plan to 
discharge to rehab for intensive SLP therapy at rehab in hopes 
her swallow function will improve overtime. On ___ had some 
nausea after bolus tube feed, so was placed on continuous 
overnight. However bolus feeding was successful on ___ without 
significant nausea.

- continue Jevity 1.5, 1 240 cc can 4x daily (if using Jevity 
1.2, can use 5 cans daily)
- 60 cc water flush before and after each bolus
- speech/swallow therapy - hope is that function will return

#Mechanical falls
Due to 2 reported falls within the past 2 weeks prior to
admission combined with patient reports of worsening ability to
ambulate during that time. ___ unchanged since ___. 

#RA: held methotrexate in setting of poor po intake. Will 
restart at discharge

#Overactive bladder
Family reports h/o overactive bladder resulting in many 
nocturnal
awakenings and inquired about starting meds. Should definitely 
be
explored but will hold introducing a new medication at this time
and defer this decision to her PCP.

#Code Status: DNR/DNI
#Contacts: husband is ___ proxy ___ ___ (has
granddaughter ___ and daughter ___ who are both ___
affiliated with ___). ___ can be reached at ___

=============================================
Transitional issues/follow-up recommendations:

(1) Continued tube feeding per above recommendations
(2) Continued SLP therapy
(3) Recheck basic labs in ___ weeks
(4) needs CT chest in ___ year due to nodule noted as above
(5) renal abnormality, for which renal ultrasound was 
recommended
(6) address overactive bladder symptoms in the outpatient 
setting
=============================================

>30 minutes spent in patient ___ and coordination of discharge 
on day of discharge

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Docusate Sodium 100 mg PO BID 
3. Famotidine 20 mg PO BID 
4. Levothyroxine Sodium 75 mcg PO DAILY 
5. Lisinopril 2.5 mg PO DAILY 
6. Senna 17.2 mg PO QHS:PRN constipation 
7. Sertraline 50 mg PO DAILY 
8. metHOTREXate sodium (PF) unknown  injection unknown 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN pain  
2.  Docusate Sodium 100 mg PO BID  
3.  Famotidine 20 mg PO BID  
4.  Senna 17.2 mg PO QHS:PRN constipation  
5.  Levothyroxine Sodium 75 mcg PO DAILY  
6.  LORazepam 0.5 mg PO Q12H:PRN anxiety  
7.  metHOTREXate sodium 2.5 mg oral 2X/WEEK  
8.  Sertraline 50 mg PO DAILY  

 
Discharge Disposition:
Extended ___
 
Facility:
___
 
Discharge Diagnosis:
-progressive severe dysphagia
-moderate protein calorie malnutrition

 
Discharge Condition:
Mental Status: intact and at baseline
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___, 
 You were hospitalized at ___. 

 

Why were you in the hospital?
 =======================
-progressive dysphagia, inability to eat
-malnutrition

 

 

What did we do for you?
 =======================
 -ENT surgery and speech language pathology were enlisted to 
help find the exact cause of your worsened swallowing. 
-nutrition was also consulted because you were malnourished and 
artificial feeding was discussed, in terms of either a temporary 
nasogastric/jejunal tube or more permanent PEG tube
-PEG tube was placed to allow time for your swallow function to 
improve if this is indeed related to the botox injections
-because of a recent fall you had, a head CT scan was done which 
did not show any acute abnormalities

 

 

What do you need to do?
 =======================
 -  continue the tube feeds and working with speech language 
therapists
 - follow-up with ENT and with your primary ___ doctor

 

 

 Please follow up with your primary ___ doctor.

 

It was a pleasure taking ___ of you. We wish you the best!

Sincerely,
 Your ___ Medicine Team 
 
Followup Instructions:
___